// Generated for: spectre
// Generated on: Apr 24 07:35:17 2015
// Design library name: 16nm_Tests
// Design cell name: LCFF_Test
// Design view name: config
simulator lang=spectre
global 0 vddd! vdda! gndd! gnda! vdd!
parameters time2=5.25n time3=5.3n pClk=2.5n vdd=.400 vddL=.400 vddH=.800
include "/home/cadence/ncsu-FreePDK15/hspice_16nm_hp.include"

// Library name: 16nm
// Cell name: inv_1x
// View name: schematic
// Inherited view list: spectre spice verilog behavioral functional hdl
//system verilogNetlist schematic cmos.sch cmos_sch veriloga ahdl
subckt inv_1x A Y
    M0 (Y A 0 0) nfet w=60n l=20n nfin=1 m=1 degradation=no
    M1 (Y A vdd! vdd!) pfet w=100n l=20n nfin=1 m=1 degradation=no
ends inv_1x
// End of subcircuit definition.

// Library name: 16nm
// Cell name: inv_en
// View name: schematic
// Inherited view list: spectre spice verilog behavioral functional hdl
//system verilogNetlist schematic cmos.sch cmos_sch veriloga ahdl
subckt inv_en A En GND VDD Y
    M2 (nb A GND GND) nfet w=80n l=16n nfin=1 ls=105n  m=1 \
        degradation=no
    M0 (Y En nb GND) nfet w=80n l=16n nfin=1 ls=105n  m=1 \
        degradation=no
    M3 (nt A VDD VDD) pfet w=200n l=20n nfin=1 m=1 degradation=no
    M1 (Y En nt VDD) pfet w=200n l=20n nfin=1 m=1 degradation=no
ends inv_en
// End of subcircuit definition.

// Library name: 16nm
// Cell name: inv_1xp
// View name: schematic
// Inherited view list: spectre spice verilog behavioral functional hdl
//system verilogNetlist schematic cmos.sch cmos_sch veriloga ahdl
subckt inv_1xp A GND VDD Y
    M0 (Y A GND GND) nfet w=60n l=20n nfin=1 ls=105n  m=1 \
        degradation=no
    M1 (Y A VDD VDD) pfet w=10n l=20n nfin=1 m=1 degradation=no
ends inv_1xp
// End of subcircuit definition.

// Library name: 16nm
// Cell name: LCFF
// View name: schematic
// Inherited view list: spectre spice verilog behavioral functional hdl
//system verilogNetlist schematic cmos.sch cmos_sch veriloga ahdl
subckt LCFF CLK D GNDH GNDL Q VDDH VDDL \~CLK
    M4 (PG1 \~CLK net055 GNDH) nfet w=60n l=20n nfin=1 m=1 \
        degradation=no
    M5 (PG2 \~CLK Q GNDH) nfet w=60n l=20n nfin=1 m=1 degradation=no
    M8 (Q PG1 GNDH GNDH) nfet w=60n l=20n nfin=1 m=1 degradation=no
    M7 (net055 PG2 GNDH GNDH) nfet w=60n l=20n nfin=1 m=1 \
        degradation=no
    M9 (mf CLK PG2 GNDL) nfet w=60n l=20n nfin=1 m=1 degradation=no
    M3 (net05 CLK PG1 GNDL) nfet w=60n l=20n nfin=1 m=1 degradation=no
    M10 (net05 \~CLK PG1 VDDL) pfet w=100n l=20n nfin=1 m=1 \
        degradation=no
    M6 (mf \~CLK PG2 VDDL) pfet w=100n l=20n nfin=1 m=1 degradation=no
    M2 (Q net055 VDDH VDDH) pfet w=100n l=20n nfin=1 m=1 degradation=no
    M1 (net055 Q VDDH VDDH) pfet w=100n l=20n nfin=1 m=1 degradation=no
    I4 (D \~CLK GNDL VDDL mf) inv_en
    I5 (net05 CLK GNDL VDDL mf) inv_en
    I6 (mf GNDL VDDL net05) inv_1xp
ends LCFF
// End of subcircuit definition.

// Library name: 16nm_Tests
// Cell name: LCFF_Test
// View name: schematic
// Inherited view list: spectre spice verilog behavioral functional hdl
// system verilogNetlist schematic cmos.sch cmos_sch veriloga ahdl
V5 (tD 0) vsource type=pwl wave=[ 0 0 time2 0 time3 vdd ]
I1 (tCLK tCLK\~) inv_1x
V6 (tCLK 0) vsource type=pulse val0=0 val1=vdd period=pClk
V2 (vdda! gndd!) vsource type=dc dc=vddL
V1 (vddd! gndd!) vsource type=dc dc=vddH
V0 (vdd! 0) vsource type=dc dc=vdd
I0 (tCLK tD gnda! gndd! Q vdda! vddd! tCLK\~) LCFF
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
