// Generated for: spectre
// Generated on: Apr 24 08:29:31 2015
// Design library name: 16nm
// Design cell name: LC_MIT
// Design view name: schematic
simulator lang=spectre
global 0 gndd! vdd!
parameters time2=5n time3=6n vddH=.850 vddL=.850
include "/root/Desktop/Cadence/ncsu-FreePDK15/hspice_16nm_hp.include"

// Library name: 16nm
// Cell name: LC_MIT
// View name: schematic
M21 (Y C 0 0) nfet w=288n l=20n nfin=6 m=1 degradation=no
M20 (net49 net042 net032 net032) nfet w=288n l=20n nfin=6 m=1 \
        degradation=no
M19 (net040 net045 net026 net026) nfet w=288n l=20n nfin=6 m=1 \
        degradation=no
M15 (net042 net045 net029 net029) nfet w=288n l=20n nfin=6 m=1 \
        degradation=no
M13 (C X 0 0) nfet w=288n l=20n nfin=6 m=1 degradation=no
M11 (net053 B net056 net056) nfet w=288n l=20n nfin=6 m=1 \
        degradation=no
M10 (B net020 net38 0) nfet w=288n l=20n nfin=6 m=1 degradation=no
M9 (B net020 net055 net055) nfet w=288n l=20n nfin=6 m=1 degradation=no
M5 (A \~X net39 0) nfet w=288n l=20n nfin=6 m=1 degradation=no
M4 (A \~X net09 net09) nfet w=288n l=20n nfin=6 m=1 degradation=no
M3 (\~X net020 net057 net057) nfet w=288n l=20n nfin=6 m=1 \
        degradation=no
M22 (Y C vdd! vdd!) pfet w=288n l=20n nfin=7 m=1 degradation=no
M18 (net49 net040 net44 net44) pfet w=288n l=20n nfin=7 m=1 \
        degradation=no
M17 (net040 net49 net44 net44) pfet w=288n l=20n nfin=7 m=1 \
        degradation=no
M16 (net042 net045 net031 net031) pfet w=288n l=20n nfin=7 m=1 \
        degradation=no
M14 (C X vdd! vdd!) pfet w=288n l=20n nfin=7 m=1 degradation=no
M12 (net053 B net044 net044) pfet w=288n l=20n nfin=7 m=1 \
        degradation=no
M8 (net052 net020 net39 net054) pfet w=288n l=20n nfin=7 m=1 \
        degradation=no
M6 (net039 \~X net38 net039) pfet w=288n l=20n nfin=7 m=1 \
        degradation=no
M0 (\~X net020 net050 net050) pfet w=288n l=20n nfin=7 m=1 \
        degradation=no
M2 (B A net011 net011) pfet w=288n l=20n nfin=7 m=1 degradation=no
M1 (A B net011 net011) pfet w=288n l=20n nfin=7 m=1 degradation=no
V3 (X 0) vsource type=pwl wave=[ 0 vddL time2 vddL time3 0 ]
V1 (vdd! gndd!) vsource type=dc dc=vddH
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save 
saveOptions options save=allpub
